US08008307B2
Step a: 4-benzyl-6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)-silyl]oxy}methyl)cyclopentyl]oxy}pyrimidine
To a solution of 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine (0.264 g, 0.559 mmol) and ferric acetylacetonate (0.0395 g, 0.112 mmol) in THF (9 mL) was added a 1.00 M solution of benzylmagnesium bromide in THF (2.52 mL) and the mixture was stirred overnight. The reaction was quenched using NH4Cl and extracted with EtOAc (3×). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (0 to 15% EtOAc/hexanes) to afford the title compound as a clear oil. (0.254 g, 86%).

reactant | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine | 0.559 mmol, 0.264 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC(=C1)Cl | C22H41ClN2O3Si2
reactant | benzylmagnesium bromide | C(C1=CC=CC=C1)[Mg]Br
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 2.52 mL | C1CCOC1 | C4H8O
product | 4-benzyl-6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)-silyl]oxy}methyl)cyclopentyl]oxy}pyrimidine | C(C1=CC=CC=C1)C1=NC=NC(=C1)O[C@H]1C[C@@H]([C@@H](C1)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C29H48N2O3Si2
